US04275010
A solution of 48.8 g. of 2-methylthio-2-imidazoline hydroiodide and 10.0 g. of methylhydrazine in 200 ml. of ethanol is heated at reflux for several hours, clarified and then cooled at -10° C. The precipitate is collected, washed with diethyl ether and dried, giving 2-(1-methylhydrazino)imidazoline hydroiodide.

reactant | 2-methylthio-2-imidazoline hydroiodide | I.CSC=1NCCN1
reactant | methylhydrazine | CNN | CH6N2
solvent | ethanol | C(C)O | C2H6O
product | 2-(1-methylhydrazino)imidazoline hydroiodide | I.CN(N)C=1NCCN1 | InChI=1S/C4H10N4.HI/c1-8(5)4-6-2-3-7-4;/h2-3,5H2,1H3,(H,6,7);1H
